US08871753B2
Step D. tert-Butyl [3-({3-[(tert-butylamino)sulfonyl]-5-nitrophenyl}ethynyl)phenyl]carbamate
A solution of 3-[(3-aminophenyl)ethynyl]-N-(tert-butyl)-5-nitrobenzenesulfonamide (180 mg, 0.482 mmol), di-tert-butyldicarbonate (116 mg, 0.53 mmol), ethanol (5 mL) and N,N-diisopropylethylamine (84.0 mL, 0.482 mmol) was stirred at 25° C. overnight. The reaction mixture was concentrated in vacuo. The crude residue was purified by flash column chromatography to yield the desired product (186 mg, 81%). LCMS calculated for C23H27N3O6SNa (M+Na)+: m/z=496.1.

reactant | 3-[(3-aminophenyl)ethynyl]-N-(tert-butyl)-5-nitrobenzenesulfonamide | 0.482 mmol, 180 mg | NC=1C=C(C=CC1)C#CC=1C=C(C=C(C1)[N+](=O)[O-])S(=O)(=O)NC(C)(C)C | C18H19N3O4S
reactant | di-tert-butyldicarbonate | 0.53 mmol, 116 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | N,N-diisopropylethylamine | 0.482 mmol, 84.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | tert-Butyl [3-({3-[(tert-butylamino)sulfonyl]-5-nitrophenyl}ethynyl)phenyl]carbamate | 186 mg, 81% | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=C(C1)[N+](=O)[O-])C#CC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C23H27N3O6S
